US07968570B2
A mixture of 5-bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.600 g, 1.5 mmol), Pd(PPh3)4 (0.175 g, 0.14 mmol), sodium cyanide (0.163 g, 3.4 mmol), and CuI (0.029 g, 0.15 mmol) in acetonitrile (6 mL) was stirred at 80° C. for 18 h. Workup and silica gel column chromatography using 2:1 hexanes-ethyl acetate (typically 2:1 hexane-EtOAc) afforded 7-methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile (0.491 g, 95%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.78 (s, 3H), 4.26 (s, 2H), 4.79 (s, 2H), 7.18 (d, 2H), 7.35 (d, 2H), 7.52 (s, 2H).

reactant | 5-bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 1.5 mmol, 0.600 g | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13BrF3NO2
reactant | sodium cyanide | 3.4 mmol, 0.163 g | [C-]#N.[Na+]
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)4 | 0.14 mmol, 0.175 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.15 mmol, 0.029 g | [Cu]I
product | 7-methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile | 0.491 g, 95% | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#N | C18H13F3N2O2
